US08808703B2
Step 4: (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-bis(methylsulfonyloxy)propylthio)-propanoate
A solution of (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-dihydroxypropylthio)propanoate (1 eq) was stirred in dry DCM (0.1M) in an ice bath (0° C.) under an atmosphere of N2. Pyridine (8.0 eq) was then carefully added at 0° C. Methanesulfonyl chloride (4.0 eq) and DMAP (0.1 eq) were added with the reaction slowly warming to room temperature, then stirred overnight. The crude reaction mixture was then loaded directly onto a silica column and purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 100% Hex, 0-20% EtOAc/Hex, 20-50% EtOAc/Hex, 100% EtOAc to afford the title compound as an oil.

reactant | (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-dihydroxypropylthio)propanoate | 1 eq | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CSC[C@H](CO)O | C18H27NO6S
reactant | Pyridine | 8.0 eq | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 4.0 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 0.1M | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-bis(methylsulfonyloxy)propylthio)-propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CSC[C@H](COS(=O)(=O)C)OS(=O)(=O)C | C20H31NO10S3
